US05162571
To a solution of 4-hydroxy-2,3,6-trimethylphenyl-acetic acid (2.5 g) in anhydrous tetrahydrofuran (20 ml) was added lithium aluminum hydride (0.5 g) at 0° C. and the mixture was heated at 40° C. for 3 hours. The mixture was cooled to 0° C. Diluted sulfuric acid was added and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated saline and dried with anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure to obtain 2-(4-hydroxy-2,3,6-trimethylphenyl)ethanol (2.3 g) (Compound A-24). The physical properties and NMR spectrum data thereof are shown in Table 1.

reactant | 4-hydroxy-2,3,6-trimethylphenyl-acetic acid | 2.5 g | OC1=C(C(=C(C(=C1)C)CC(=O)O)C)C | C11H14O3
reactant | lithium aluminum hydride | 0.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-(4-hydroxy-2,3,6-trimethylphenyl)ethanol | 2.3 g | OC1=C(C(=C(C(=C1)C)CCO)C)C | C11H16O2
